* source FULL ADDER
X_U1A         N00441 N00420 N00525 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00525 N00477 M_UN0001 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00441 N00420 N00271 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00525 N00477 N00275 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00275 N00271 M_UN0002 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00441 IO_STM IO_LEVEL=0 
+ 0 0
+ +4ms 1
+REPEAT FOREVER
+ +4ms 0
+  +4ms 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N00420 IO_STM IO_LEVEL=0 
+ 0 0
+ +2ms 1
+REPEAT FOREVER
+ +2ms 0
+  +2ms 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND N00477 IO_STM IO_LEVEL=0 
+ 0 0
+ +1ms 1
+REPEAT FOREVER
+ +1ms 0
+  +1ms 1
+ ENDREPEAT
