* source MAXIMUM POWER TRANSFER
R_R1         N00115 N00143  4 TC=0,0 
R_R2         0 N00115  12 TC=0,0 
R_R3         N00119 N00143  6 TC=0,0 
R_R4         0 N00119  8 TC=0,0 
V_V1         N00115 N00119 30Vdc
R_R5         0 N00143  {RL} TC=0,0 
.PARAM  rl=1
