* source FULL WAVE RECTIFIER
R_R1         N00154 N00098  5 TC=0,0 
V_V1         N00090 0  AC 0
+SIN 0 100 50 0 0 0
D_D1         N00090 N00098 D1N4007 
D_D2         0 N00098 D1N4007 
D_D3         N00154 N00090 D1N4007 
D_D4         N00154 0 D1N4007 
