* source STEADY STATE RESPONSE OF RLC CIRCUIT
R_R1         N00131 N00092  100 TC=0,0 
L_L1         N00092 N00096  47mH  
C_C1         N00096 0  47uH  TC=0,0 
V_V1         N00131 0 DC 0Vdc AC 20V 
